US08729068B2
A mixture of 137 mg of 4-(2-{4-[({2-[(3-{[1-(ethoxycarbonyl)cyclopropyl](isopropyl)sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoic acid, 0.5 mL of a 5.0 M aqueous sodium hydroxide, and 1.4 mL of ethanol was heated and refluxed overnight. The reaction mixture was concentrated under reduced pressure, and to the residue were added water, citric acid, dichloromethane, and THF in this order. The organic layer was separated and then concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform-methanol). The obtained crude product was washed with diethyl ether to obtain 74 mg of 4-{2-[4-({[2-({3-[(1-carboxycyclopropyl)(isopropyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoic acid as a pale yellow crystal.

reactant | 4-(2-{4-[({2-[(3-{[1-(ethoxycarbonyl)cyclopropyl](isopropyl)sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoic acid | 137 mg | C(C)OC(=O)C1(CC1)N(S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)O)C=C2)CCCC3)C=CC1)C(C)C | C40H43N3O8S2
reactant | sodium hydroxide | 5.0 M | [OH-].[Na+]
solvent | ethanol | 1.4 mL | C(C)O | C2H6O
product | 4-{2-[4-({[2-({3-[(1-carboxycyclopropyl)(isopropyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoic acid | 74 mg | C(=O)(O)C1(CC1)N(S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)O)C=C2)CCCC3)C=CC1)C(C)C | C38H39N3O8S2
